US07872028B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-3-cyclohexylpropanoic acid (37 g, 0.136 mmol) in anhydrous THF (300 mL) cooled to −20° C. was added dropwise N-methylmorpholine (16.6 mL, 0.15 mmol), followed by isobutyl chloroformate (20 mL, 0.15 mmol) and the reaction mixture was stirred at −20° C. for 30 min. The mixture was warmed to 0° C., and an etheral solution of CH2N2 (0.8 mol) was added. Stirring was continued overnight at rt. Excess diazomethane was decomposed by addition of acetic acid. The mixture was diluted with ether, washed with brine, satd aq NaHCO3 and brine to give a solution of crude (S)-tert-butyl 1-cyclohexyl-4-diazo-3-oxobutan-2-ylcarbamate (48 g, 100%), which was used without isolation.

reactant | (S)-2-(tert-butoxycarbonylamino)-3-cyclohexylpropanoic acid | 0.136 mmol, 37 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1CCCCC1 | C14H25NO4
reactant | N-methylmorpholine | 0.15 mmol, 16.6 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.15 mmol, 20 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (S)-tert-butyl 1-cyclohexyl-4-diazo-3-oxobutan-2-ylcarbamate | 48 g, 100% | C1(CCCCC1)C[C@@H](C(C=[N+]=[N-])=O)NC(OC(C)(C)C)=O | C15H25N3O3
